US05089513
Ethyl 5-hydroxy-3-(naphth-2-ylmethoxy)benzoate, obtained from ethyl 3,5-dihydroxybenzoate and 2-bromomethylnaphthalene, was reacted with tert-butyldimethylsilyl chloride using the conditions described in the 1st paragraph of the portion of Example 6 which is concerned with the preparation of starting materials and the product so obtained was reacted in turn with thiazol-2-yl-lithium and ethylmagnesium iodide following the procedures described in the portion of Example 3 which is concerned with the preparation of starting materials. There was thus obtained the required starting material in 49% yield (from ethyl 5-hydroxy-3-(naphth-2-ylmethoxy)benzoate) as an oil. This starting material was methylated using the procedure described in Example 3 to give 2-[1-(5-tert-butyldimethylsilyloxy-3-(naphth-2-ylmethoxy)phenyl)-1-methoxypropyl]thiazole as an oil, in 42% yield.

reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | thiazol-2-yl-lithium | S1C(=NC=C1)[Li]
reactant | ethylmagnesium iodide | C(C)[Mg]I
reactant | ethyl 5-hydroxy-3-(naphth-2-ylmethoxy)benzoate | OC=1C=C(C=C(C(=O)OCC)C1)OCC1=CC2=CC=CC=C2C=C1 | C20H18O4
product | 2-[1-(5-tert-butyldimethylsilyloxy-3-(naphth-2-ylmethoxy)phenyl)-1-methoxypropyl]thiazole | 42% yield | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=C(C1)C(CC)(OC)C=1SC=CN1)OCC1=CC2=CC=CC=C2C=C1 | C30H37NO3SSi
